US06342516B1
Preparation of N-[4-(imidazol-1-yl)phenyl]-4-phenyl-4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butanamide (Compound No. 3-27)
To a solution of 1-(4-aminophenyl)imidazole(0.71 g), 4-phenyl 4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butanoic acid(1.25 g), ,1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride(0.85 g) and 1-hydroxybenzotriazole(0.85g) in DMF(8 ml) was added triethylamine(0.7 ml) and the mixture was stirred at room temperature for 20 hours. The reaction mixture was poured into ice water and the precipitate was filtered and dissolved in chloroform-methanol. This solution was washed with brine, dried (MgSO4) and evaporated to dryness. The residue was purified by column chromatography on silica gel (chloroform: methanol=100:3) to obtain the title compound (0.82 g, amorphous).

reactant | 1-(4-aminophenyl)imidazole | 0.71 g | NC1=CC=C(C=C1)N1C=NC=C1 | C9H9N3
reactant | 4-phenyl 4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butanoic acid | 1.25 g | C1(=CC=CC=C1)C(CCC(=O)O)C=1C(C(=C(C(C1C)=O)C)C)=O | C19H20O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.85 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.85g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(imidazol-1-yl)phenyl]-4-phenyl-4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butanamide | 0.82 g | N1(C=NC=C1)C1=CC=C(C=C1)NC(CCC(C=1C(C(=C(C(C1C)=O)C)C)=O)C1=CC=CC=C1)=O | C28H27N3O3
